US09210927B2
Preparation of 2-((4-Vinylphenyl)amino)isoindoline-1,3-dione (CI73)
To a solution of 2-(4-bromophenylamino)isoindoline-1,3-dione (2 g, 6 mmol) in 1,2-dimethoxyethane (20 mL) and H2O (4 mL) were added vinyl boronic anhydride pyridine complex (4.57 g, 18.98 mmol) and K2CO3 (1.3 g, 9.5 mmol) followed by Pd(PPh3)4 (0.219 g, 0.189 mmol). The resultant reaction mixture was heated at 150° C. in a microwave for 30 min and then was concentrated under reduced pressure. Purification by column chromatography (SiO2, 15% EtOAc in petroleum ether) afforded the title compound as a solid (200 mg, 13%): mp 174-176° C.; 1H NMR (400 MHz, CDCl3) δ 8.65 (s, 1H), 7.94 (m, 4H), 7.29 (d, J=8.4 Hz, 2H), 6.72 (d, J=8.4 Hz, 2H), 6.61 (m, 1H), 5.61 (d, J=17.6 Hz, 1H), 5.05 (d, J=11.2 Hz, 1H); ESIMS m/z 263.18 ([M−H]−).

reactant | 2-(4-bromophenylamino)isoindoline-1,3-dione | 6 mmol, 2 g | BrC1=CC=C(C=C1)NN1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | K2CO3 | 9.5 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | H2O | 4 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.189 mmol, 0.219 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-((4-Vinylphenyl)amino)isoindoline-1,3-dione | 200 mg, 13% | C(=C)C1=CC=C(C=C1)NN1C(C2=CC=CC=C2C1=O)=O | C16H12N2O2
